US04616086
n-Butyl 3-[4-(piperazin-1-yl)-phenyl]-propionate
A mixture of 175 g. (0.79 mole) n-butyl 3-(-4-aminophenyl)-propionate (prepared by the hydrogenation of n-butyl 4-nitrocinnamate in the presence of palladiumcharcoal in n-butanol; b.p. 137°-138° C./0.013 mbar), 141.3 g. (0.79 mole) bis-(2-cholorethyl)-amine hydrochloride and 600 ml. n-butanol is maintained at reflux temperature for 48 hours, then 54.5 g. (0.39 mole) powdered potassium carbonate are added thereto and the reaction allowed to continue for a further 120 hours at the boiling temperature. Thereafter, the reaction mixture is suction filtered hot, the filtrate is evaporated in a vacuum and the oil remaining behind is taken up in n-butanol. The sulphate is now precipitated out in the cold by adding concentrated sulphuric acid. It is filtered off with suction, triturated with diethyl ether and dried. Yield 286.8 g. (69% of theory); m.p. 183°-185° C.

reactant | n-butyl 3-(-4-aminophenyl)-propionate | 0.79 mole | NC1=CC=C(C=C1)CCC(=O)OCCCC | C13H19NO2
reactant | n-butyl 4-nitrocinnamate | [N+](=O)([O-])C1=CC=C(C=CC(=O)OCCCC)C=C1 | C13H15NO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | n-butanol | C(CCC)O | C4H10O
catalyst | palladiumcharcoal | [Pd] | Pd
product | n-Butyl 3-[4-(piperazin-1-yl)-phenyl]-propionate | N1(CCNCC1)C1=CC=C(C=C1)CCC(=O)OCCCC | C17H26N2O2
